US07268230B2
A solution of 7-(3-bromopropoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxyquinazoline (0.25 g, 0.543 mmol) and 1-acetylpiperazine (0.208 g, 1.63 mmol) in DMF (4 ml) was stirred at 80° C. for 2.5 hours. The volatiles were removed under vacuum and the residue was purified by column chromatography eluting with increasingly polar mixtures of methylene chloride and methanol. The fractions containing the expected product were combined and evaporated. The residue was triturated under diethyl ether and the resulting solid was filtered, washed with diethyl ether and dried under vacuum to give 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxyquinazoline (0.25 g, 0.543 mmol).

reactant | 7-(3-bromopropoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxyquinazoline | 0.543 mmol, 0.25 g | BrCCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C21H19BrFN3O3
reactant | 1-acetylpiperazine | 1.63 mmol, 0.208 g | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxyquinazoline | 0.543 mmol, 0.25 g | C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C27H30FN5O4
